US07531545B2
Dissolution of N-benzyl-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetamide (8.02 g, 27.2 mmol) in acetonitrile (100 mL) was achieved by heating to reflux. After the reaction mixture was cooled to 0° C., NaN3 (2.30 g, 35.4 mmol) and trifluoromethanesulfonic anhydride (10 g, 35.4 mmol) were added. The reaction mixture was then stirred at room temperature overnight. Dichloromethane (200 mL) was added. The reaction mixture was extracted with saturated sodium bicarbonate solution three times and brine one time and then was dried over MgSO4. The solution was filtered and concentrated to yield 2-(1-benzyl-1H-tetrazol-5-ylmethyl)-isoindole-1,3-dione as a white solid.

reactant | N-benzyl-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetamide | 27.2 mmol, 8.02 g | C(C1=CC=CC=C1)NC(CN1C(C2=CC=CC=C2C1=O)=O)=O | C17H14N2O3
reactant | NaN3 | 35.4 mmol, 2.30 g | [N-]=[N+]=[N-].[Na+]
reactant | trifluoromethanesulfonic anhydride | 35.4 mmol, 10 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-(1-benzyl-1H-tetrazol-5-ylmethyl)-isoindole-1,3-dione | C(C1=CC=CC=C1)N1N=NN=C1CN1C(C2=CC=CC=C2C1=O)=O | C17H13N5O2
